US08349824B2
A mixture of 2,7-dibromo-[1,2,4]triazolo[1,5-a]pyridine (1 g, 3.61 mmol) and N-methylethanamine (4.00 ml, 46.6 mmol) in ethanol (4 ml) was heated for 4 hours to 120° C. in a high pressure vessel. The crude material was applied on silicagel and purified by flash chromatography over a 20 g silicagel column using heptane/ethyl acetate 10-30% as eluent affording (7-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-ethyl-methyl-amine (549 mg, 59.6%) as a white solid. mp: 109-111° C., MS: m/z=255/257 (M+H+)

reactant | 2,7-dibromo-[1,2,4]triazolo[1,5-a]pyridine | 3.61 mmol, 1 g | BrC1=NN2C(C=C(C=C2)Br)=N1 | C6H3Br2N3
reactant | N-methylethanamine | 46.6 mmol, 4.00 ml | CNCC | C3H9N
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | (7-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-ethyl-methyl-amine | 549 mg, 59.6% | BrC1=CC=2N(C=C1)N=C(N2)N(C)CC | C9H11BrN4
